US06479670B1
14.27 g (1.6 eq.) of (methoxymethyl)triphenylphosphonium chloride was suspended in 50 ml of abs. THF and deprotonated at a temperature of −10° C. and −5° C. by adding via syringe 25.2 ml of 1.6 M n-butyllithium (1.55 eq., in hexane). The resultant red ylide solution was cooled to −75° C. and treated with 6.20 g (26.0 mmol) of 8-bromo-3,4-dihydro-2H-benzo[b]oxepin-5-one dissolved in 13 ml of abs. THF. The mixture was then kept for 0.2 h at −78° C. and for 1 h at room temperature, poured onto crushed ice and extracted with diethylether. The organic phase was washed with water and dried over magnesium sulfate, filtrated and the solvent evaporated to yield a crude product which was purified by flash chromatography (SiO2, hexane/ethylacetate=95/5). Thereby, 5.85 g of 8-bromo-5-methoxymethylene-2,3,4,5-tetrahydrobenzo[b]oxepine was obtained as E/Z-mixture which was hydrolyzed as follows:

reactant | (methoxymethyl)triphenylphosphonium chloride | 14.27 g, 1.6 eq. | [Cl-].COC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | n-butyllithium | 1.6 M, 25.2 ml, 1.55 eq. | C(CCC)[Li]
reactant | 8-bromo-3,4-dihydro-2H-benzo[b]oxepin-5-one | 26.0 mmol, 6.20 g | BrC=1C=CC2=C(OCCCC2=O)C1 | C10H9BrO2
solvent | THF | C1CCOC1 | C4H8O
product | 8-bromo-5-methoxymethylene-2,3,4,5-tetrahydrobenzo[b]oxepine | 5.85 g | BrC=1C=CC2=C(OCCCC2=COC)C1 | C12H13BrO2
